US05334576
Preparation of methyl 5-(1-hydroxyethyl)-2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)nicotinate
A solution of 16 g of methyl 5-(1-acetoxyethyl)-2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)nicotinate and 0.5 g sodium methoxide in 150 mL methanol is stirred at room temperature under nitrogen for 5 days. The reaction is acidified to pH 5 with acetic acid and concentrated in vacuo. The residue is partitioned between methylene chloride and water, the aqueous layer is further extracted with methylene chloride, and the combined organic phases are dried over sodium sulfate and concentrated in vacuo to an orange oil. Column chromatography of this oil using ether-hexane as eluent affords the desired product as a white foam.

reactant | methyl 5-(1-acetoxyethyl)-2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)nicotinate | 16 g | C(C)(=O)OC(C)C=1C=NC(=C(C(=O)OC)C1)C=1NC(C(N1)(C)C(C)C)=O | C18H23N3O5
reactant | sodium methoxide | 0.5 g | C[O-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 150 mL | CO | CH4O
product | methyl 5-(1-hydroxyethyl)-2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)nicotinate | OC(C)C=1C=NC(=C(C(=O)OC)C1)C=1NC(C(N1)(C)C(C)C)=O | C16H21N3O4
